US05932765
a) Phenyl 2-(trifluoromethoxyphenyl)benzoate
A mixture composed of 10 g (48.5 mmol) of 2-(trifluoromethoxy)benzoic acid, 50 ml of thionyl chloride and a drop of dimethylformamide is heated under reflux for 1.5 hours. After cooling and concentrating the reaction mixture under vacuum, a residue is obtained which is stirred for 2 hours at 100° C. in the presence of 4.75 g (50 mmol) of phenol. After cooling, the reaction medium is taken up in dichloromethane, washed with a saturated NaHCO3 solution and then with water, dried over Na2SO4 and concentrated.

reactant | 2-(trifluoromethoxy)benzoic acid | 48.5 mmol, 10 g | FC(OC1=C(C(=O)O)C=CC=C1)(F)F | C8H5F3O3
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | phenol | 50 mmol, 4.75 g | C1(=CC=CC=C1)O | C6H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | Phenyl 2-(trifluoromethoxyphenyl)benzoate | FC(OC1=C(C=CC=C1)C1=C(C(=O)OC2=CC=CC=C2)C=CC=C1)(F)F | C20H13F3O3
